US07109186B2
Compound 1-A: 4-Fluoro-N-methyl-benzamide
To a solution of 30 mL MeNH2 (40% wt in H2O) was added 139 mL of 1N NaOH. To this was added 130 mL of CH2Cl2 followed by 4-fluorobenzoyl chloride (22 grams, 139 mmol) while the mixture was rapidly stirred. After 1 hour the organic layer was separated, washed with H2O, dried over Na2SO4 and solvent removed under vacuum to yield 20 grams (94% yield) solid. 1H NMR (500 MHz, DMSO) δ: 2.78 (d, 3, J=5), 7.28 (t, 2, J=9), 7.91 (m, 2), 8.46 (br s, 1). 13C NMR (125 MHz, DMSO) δ: 26.13, 114.95, 115.13, 129.49, 129.56, 130.87, 130.90, 162.67, 164.64, 165.46.

reactant | MeNH2 | 30 mL | CN | CH5N
reactant | NaOH | 1N, 139 mL | [OH-].[Na+]
reactant | 4-fluorobenzoyl chloride | 139 mmol, 22 grams | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
solvent | CH2Cl2 | 130 mL | C(Cl)Cl | CH2Cl2
product | 4-Fluoro-N-methyl-benzamide | 20 grams, 94% yield | FC1=CC=C(C(=O)NC)C=C1 | C8H8FNO
